US05650533
A solution of sodium nitrite (6.7 g) in water was added to a stirred, cooled mixture of methyl 3-amino-2-methyl-6-(1-methylethylsulphenyl)-benzoate (18 g) in concentrated hydrochloric acid while maintaining the temperature below 0° C. The resultant mixture was added to a solution of potassium iodide (16 g) in water while maintaining the temperature at about 80° C. The resultant mixture was stirred at 80° C. for 15 mins then cooled to room temperature. It was diluted with water and extracted with dichloromethane. The organic layer was washed with sodium bicarbonate solution, water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give methyl 3-iodo-2-methyl-6-(1-methylethylsulphenyl)benzoate (20.5 g) as a red oil. NMR (CDCl3) 1.25 (d,6H) 2.35(s,3H) 3.2(m, 1H) 3.9(s,3H) 6.9(d, 1H) 7.6(d, 1H).

reactant | sodium nitrite | 6.7 g | N(=O)[O-].[Na+]
reactant | methyl 3-amino-2-methyl-6-(1-methylethylsulphenyl)-benzoate | 18 g | NC=1C(=C(C(=O)OC)C(=CC1)SC(C)C)C | C12H17NO2S
reactant | potassium iodide | 16 g | [I-].[K+]
solvent | water | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | methyl 3-iodo-2-methyl-6-(1-methylethylsulphenyl)benzoate | 20.5 g | IC=1C(=C(C(=O)OC)C(=CC1)SC(C)C)C | C12H15IO2S
